US04931581
Preparation of 2-(benzo-1,2,3-thiadiazole-7-carbonyl)-1-(α-methylpropylidene)-hydrazine
21.5 g of benzothiadiazole-7-carboxylic acid hydrazide and 150 ml of methyl ethyl ketone are heated to 70° C. over a period of 8 hours in 150 ml of glacial acetic acid. The reaction mixture is then concentrated by evaporation in vacuo, the residue is taken up in 1 l of dichloromethane and the solution is washed twice with 700 ml of ice/water. It is then dried over sodium sulfate, filtered and concentrated by evaporation and the residue is suspended in ethyl acetate, filtered and dried. The product indicated above melts at 159°-162° C.

reactant | benzothiadiazole-7-carboxylic acid hydrazide | 21.5 g | S1N=NC2=C1C(=CC=C2)C(=O)NN | C7H6N4OS
reactant | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-(benzo-1,2,3-thiadiazole-7-carbonyl)-1-(α-methylpropylidene)-hydrazine | S1N=NC2=C1C(=CC=C2)C(=O)NN=C(CC)C | C11H12N4OS
